US08183289B2
N-(4-chlorophenethyl)-4-(2-bromo-4-formylphenoxy)benzamide (1.6 g, 3.5 mmol) was diluted with THF (10 mL) followed by the addition of N,N,N-trimethyl(phenyl)methanaminium hydroxide (0.79 ml, 1.7 mmol) and methylsulfinyl(methylthio)methane (0.87 g, 7.0 mmol). The reaction was stirred at 70° C. for 2 hours. The reaction mixture was loaded directly onto a silica gel column and eluted with DCM:MeOH (98:2) to yield (Z)-N-(4-chlorophenethyl)-4-(2-bromo-4-(2-(methylsulfinyl)-2-(methylthio)vinyl)phenoxy)benzamide (1.9 g, 96% yield).

reactant | N-(4-chlorophenethyl)-4-(2-bromo-4-formylphenoxy)benzamide | 3.5 mmol, 1.6 g | ClC1=CC=C(CCNC(C2=CC=C(C=C2)OC2=C(C=C(C=C2)C=O)Br)=O)C=C1 | C22H17BrClNO3
reactant | N,N,N-trimethyl(phenyl)methanaminium hydroxide | 1.7 mmol, 0.79 ml | [OH-].C[N+](CC1=CC=CC=C1)(C)C
reactant | methylsulfinyl(methylthio)methane | 7.0 mmol, 0.87 g | CS(=O)CSC | C3H8OS2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (Z)-N-(4-chlorophenethyl)-4-(2-bromo-4-(2-(methylsulfinyl)-2-(methylthio)vinyl)phenoxy)benzamide | 1.9 g, 96% yield | ClC1=CC=C(CCNC(C2=CC=C(C=C2)OC2=C(C=C(C=C2)\C=C(\SC)/S(=O)C)Br)=O)C=C1 | C25H23BrClNO3S2
